US07902252B2
Tetrabutylammonium fluoride (TBAF) (23 mL, 1M in THF, 23 mmol) was added over 5 min to a solution of (E)-methyl 4-benzylidene-1-((2-(trimethylsilyl)ethoxy)methyl)-4,5,6,7-tetrahydro-1H-indole-2-carboxylate (900 mg, 2.26 mmol) in cooled THF (0° C.). The reaction mixture was then heated for 4 h at 80° C. After 48 h at rt, the reaction mixture was partitioned between ether and water. The organic layer was dried over MgSO4 and concentrated under reduced pressure. The crude product was purified by silica gel chromatography (cyclohexane/EtOAc:80/20) to afford the (E)-methyl 4-benzylidene-4,5,6,7-tetrahydro-1H-indole-2-carboxylate (80 mg). LC/MS: 76%, m/z=267.

reactant | Tetrabutylammonium fluoride | 23 mmol, 1M, 23 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | (E)-methyl 4-benzylidene-1-((2-(trimethylsilyl)ethoxy)methyl)-4,5,6,7-tetrahydro-1H-indole-2-carboxylate | 2.26 mmol, 900 mg | C(/C1=CC=CC=C1)=C/1\C=2C=C(N(C2CCC1)COCC[Si](C)(C)C)C(=O)OC | C23H31NO3Si
solvent | THF | C1CCOC1 | C4H8O
product | (E)-methyl 4-benzylidene-4,5,6,7-tetrahydro-1H-indole-2-carboxylate | 80 mg | C(/C1=CC=CC=C1)=C/1\C=2C=C(NC2CCC1)C(=O)OC | C17H17NO2
